US05880118
Step 5: (R)-[[3-(3-fluoro-4-(4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]azide
The [[3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]-p-toluenesulfonate (2.0 g, 4.287 mmol) was dissolved in dry DMF (15 mL) and then treated with solid NaN3 (1.67 g, 25.722 mmol). The reaction was heated to 65° C. (external temperature) for 6 hours, after which the reaction was allowed to cool to ambient temperature, stirring over a long weekend (158 hours). At this point, the reaction was found to be complete by TLC (6% CH3CN/CHCl3, UV short wave). The reaction was diluted with EtOAc (300 mL) and then washed with water (3×250 mL). The aqueous portions were back-extracted with more EtOAc (2×150 mL). The EtOAc portions were combined, dried over Na2SO4, filtered and concentrated under reduced pressure to give 1.447 g (100%) of the title compound as an off-white solid with a melting point of 91.5°-93° C. and a HRMS (M+) calculated for C14H16N5O5FS 337.1009, found 337.1009.

reactant | [[3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]-p-toluenesulfonate | 4.287 mmol, 2.0 g | FC=1C=C(C=CC1N1CCSCC1)N1C(OC(C1)COS(=O)(=O)C1=CC=C(C=C1)C)=O | C21H23FN2O5S2
reactant | NaN3 | 25.722 mmol, 1.67 g | [N-]=[N+]=[N-].[Na+]
reactant | CH3CN CHCl3 | CC#N.C(Cl)(Cl)Cl
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | (R)-[[3-(3-fluoro-4-(4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]azide | 1.447 g, 100% | FC=1C=C(C=CC1N1CCSCC1)N1C(O[C@H](C1)CN=[N+]=[N-])=O | C14H16FN5O2S
